US07700641B2
To a stirred solution of 7′-fluoro-1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (120 mg, 0.28 mmol) and triethylamine (3.9 μL, 0.028 mmol) in 5.00 mL dichloromethane was added acetone (4.1 μL, 0.56 mmol) followed with sodium triacetoxyborohydride (124 mg, 0.56 mmol) at ambient temperature. The mixture was stirred at ambient temperature overnight, quenched with water (10.0 mL). The mixture was extracted with dichloromethane (3×30.0 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was subjected to column chromatography (2% methanol in ethyl acetate/hexane) to give 7′-fluoro-1′-[(1-isopropylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (85 mg, 69%) as a white solid, which was treated with 2.0 M HCl in diethyl ether to give the title compound: mp 157-160° C.; 1H NMR (300 MHz, CD3OD) δ 7.22-7.05 (m, 2H), 7.05-6.98 (m, 1H), 6.52 (s, 1H), 6.21 (s, 1H), 5.86 (s, 2H), 4.83 (d, 1H), 4.68 (d, 1H), 3.95-3.77 (m, 2H), 3.55-3.42 (m, 3H), 3.12-2.96 (m, 2H), 2.30-2.10 (m, 1H), 2.10-1.97 (m, 2H), 1.76-1.52 (m, 2H), 1.34 (d, 6H); 13C NMR (75 MHz, CD3OD) δ 179.7, 157.6, 150.6, 150.4, 147.1, 143.9, 136.6, 125.8, 121.2, 120.3, 118.0, 103.9, 103.0, 94.3, 81.8, 60.1, 59.7, 47.6, 35.33, 35.30, 28.6, 28.5, 16.98, 16.96; MS (ES+) m/z 439.27 (M+1).

reactant | 7′-fluoro-1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.28 mmol, 120 mg | FC=1C=CC=C2C3(C(N(C12)CC1CCNCC1)=O)COC=1C3=CC3=C(OCO3)C1 | C22H21FN2O4
reactant | triethylamine | 0.028 mmol, 3.9 μL | C(C)N(CC)CC | C6H15N
reactant | acetone | 0.56 mmol, 4.1 μL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.56 mmol, 124 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
product | 7′-fluoro-1′-[(1-isopropylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 85 mg, 69% | FC=1C=CC=C2C3(C(N(C12)CC1CCN(CC1)C(C)C)=O)COC=1C3=CC3=C(OCO3)C1 | C25H27FN2O4
